US07199140B2
2-hydroxy-5-methylsulfanylbenzaldehyde (5.05 g, 30 mmol) was dissolved in acetic anhydride (8 mL). Methyl 6-methylnicotinate (4.54 g, 30 mmol) and acetic acid (1.7 mL, 30 mmol) were added. The mixture was heated to 120° C. and stirred for 18 hours. The mixture was allowed to cool to room temperature before being poured into water (200 mL). The aqueous mixture was extracted with ethyl acetate (200 mL). The extract was washed with brine, dried over magnesium sulfate and concentrated in vacuo to afford a brown solid. This material was triturated with ethanol to give 6-[E-2-(-2-acetoxy-5-methylsulfanylphenyl)-vinyl]-nicotinic acid, methyl ester as a colourless solid (7.33 g, 71%) δH (300 MHz, DMSO-d6) 9.06 (1 H, d), 8.28 (1 H, dd), 7.77−7.68 (3 H, m), 7.50 (1 H, d), 7.27 (1 H, d), 7.15 (1 H, d), 3.86 (3 H, s), 2.55 (3 H, s), and 2.36 (3 H, s); m/z (ESI+) 344 (MH+).

reactant | 2-hydroxy-5-methylsulfanylbenzaldehyde | 30 mmol, 5.05 g | OC1=C(C=O)C=C(C=C1)SC | C8H8O2S
reactant | Methyl 6-methylnicotinate | 30 mmol, 4.54 g | CC1=NC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | acetic acid | 30 mmol, 1.7 mL | C(C)(=O)O | C2H4O2
reactant | water | 200 mL | O | H2O
solvent | acetic anhydride | 8 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 6-[E-2-(-2-acetoxy-5-methylsulfanylphenyl)-vinyl]-nicotinic acid, methyl ester | 7.33 g, 71% | C(C)(=O)OC1=C(C=C(C=C1)SC)/C=C/C1=NC=C(C(=O)OC)C=C1 | C18H17NO4S
